US08258128B2
Preparation of 7-Chloro-9H-3-thia-9-aza-benzo[f]azulene-4,10-dione
A 4-necked, round-bottomed flask, equipped with a mechanical stirrer, digital thermometer, addition funnel and a condenser with nitrogen inlet-outlet is charged with thiophen-3-carboxylic acid (448.2 g) and tetrahydrofuran (4.7 L) and stirred to dissolution. The solution is cooled to 0° C. and diisopropylamine (245 mL) is added over 5 min. Then, a 1.6M solution of butyl lithium in hexane (4.8 L) is added over 2.5 hours while maintaining the internal temperature at 0° C. The mixture is stirred for an additional hour before being cooled to −65° C. Then 7-Chloro-2-ethoxy-benzo[d][1,3]oxazin-4-one (830 g), dissolved in tetrahydrofuran (1.7 L) is added over 1 hour. The mixture is stirred at −65° C. for 1 hour, then warmed to 0° C. over 40 min and stirred for 30 min. Then water (4 L) is added over 10 min letting the temperature be raised to 20° C. The mixture is stirred at this temperature for 16 hours before being concentrated under reduced pressure to remove the organic solvents. To the residue ethanol (11 L) and lithium hydroxide (295.5 g) are added. The mixture is heated to 60° C. over 45 min, stirred at this temperature for 3 hours, then the temperature is raised to 75° C. over 10 min and hydrochloric acid (2 L, 37% m/m) is added over 10 min under gentle reflux. The mixture is stirred for an hour at 60-65° C. The suspension is then cooled to room temperature and the solid is collected, washed 5 times with water (4.2 L total), ethanol (5 L total) and dried under vacuum (60° C., 50 mbar) to yield the title compound with a melting point of >280° C.

reactant | thiophen-3-carboxylic acid | 448.2 g | S1C=C(C=C1)C(=O)O | C5H4O2S
reactant | diisopropylamine | 245 mL | C(C)(C)NC(C)C | C6H15N
reactant | butyl lithium | C(CCC)[Li]
reactant | 7-Chloro-2-ethoxy-benzo[d][1,3]oxazin-4-one | 830 g | ClC=1C=CC2=C(N=C(OC2=O)OCC)C1 | C10H8ClNO3
solvent | hexane | 4.8 L | CCCCCC | C6H14
solvent | tetrahydrofuran | 1.7 L | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 4.7 L | O1CCCC1 | C4H8O
solvent | water | 4 L | O | H2O
product | 7-Chloro-9H-3-thia-9-aza-benzo[f]azulene-4,10-dione | ClC1=CC2=C(C(C=3SC=CC3C(N2)=O)=O)C=C1 | C12H6ClNO2S
